US07576094B2
To a cooled solution of 5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol (1 g) in DCM (20 mL) was added TiCl4 (0.53 mL) which turned the solution a red color. To the solution was added dichloromethyl methyl ether (0.42 mL) and stirred at 0° C. for 30 min and then at room temperature for 30 min. The solution was poured into water and the DCM was separated, dried and evaporated. The residue was purified by silica gel column eluting with 20% ethylacetate in hexane to give 700 mg of 6-hydroxy-5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-8-carbaldehyde as a yellow solid.

reactant | 5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 1 g | CC1=C2CCC3(CCC3)OC2=CC(=C1O)C | C14H18O2
reactant | dichloromethyl methyl ether | 0.42 mL | COC(Cl)Cl | C2H4Cl2O
reactant | water | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.53 mL | Cl[Ti](Cl)(Cl)Cl
product | 6-hydroxy-5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-8-carbaldehyde | 700 mg | OC=1C(=C2CCC3(CCC3)OC2=C(C1C)C=O)C | C15H18O3
